US07851469B2
4-[4-(3-Phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-N-(2,2,2-trifluoro-ethyl)-benzamide
As described for Example 10, 4-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid methyl ester (70 mg, 0.17 mmol) was converted, using 2,2,2-trifluoroethylamine instead of cyclopropanemethylamine, to the title compound (40 mg, 49%) which was obtained as a white solid. MS: m/e=481.0 [M+H]+.

reactant | 4-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid methyl ester | 0.17 mmol, 70 mg | COC(C1=CC=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C21H14F3N3O3
reactant | 2,2,2-trifluoroethylamine | FC(CN)(F)F | C2H4F3N
product | 4-[4-(3-Phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-N-(2,2,2-trifluoro-ethyl)-benzamide | 40 mg, 49% | C1(=CC=CC=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC=C(C(=O)NCC(F)(F)F)C=C1)C(F)(F)F | C22H14F6N4O2
